US04322442
Acetylene was passed into a suspension of 174 g (1.55 mol) of potassium tert.-butylate in 750 ml of tetrahydrofuran for about 30 minutes. 198 g (1.08 mol) of 4-benzoylpyridine in 400 ml of tetrahydrofuran were added dropwise to this reaction mixture, acetylene being simultaneously passed in for about a further hour. The mixture was subsequently stirred for 30 minutes, dilute hydrochloric acid was added, the salt which had precipitated was filtered off and the organic phase of the filtrate was separated off. This phase was concentrated in vacuo. The solid residue was triturated with water and the solid was filtered off and washed with methanol/water (1:1). 170 g (75% of theory) of 3-phenyl-3-pyridin-4-yl-1-propyn-3-ol of melting point 165°-66° C. were obtained.

reactant | Acetylene | C#C | C2H2
reactant | 4-benzoylpyridine | 1.08 mol, 198 g | C(C1=CC=CC=C1)(=O)C1=CC=NC=C1 | C12H9NO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 3-phenyl-3-pyridin-4-yl-1-propyn-3-ol | 170 g, 75% | C1(=CC=CC=C1)C(C#C)(O)C1=CC=NC=C1 | C14H11NO
